US07728129B2
Step C. 4-(4-Cyclopropyl-piperazine-1-carbonyl)-benzaldehyde
A mixture of 4-formyl-benzoic acid (54.4 g), toluene (500 mL), DMF (3.6 mL), and thionyl chloride (30.4 mL) was heated at 60° C. for 2 h and then was cooled to 5° C. In a separate flask, a 5° C. mixture of NaOH (50.7 g), water (550 mL), and toluene (150 mL) was treated with 1-cyclopropyl-piperazine dihydrochloride (70.0 g) in portions while the temperature was maintained below 10° C. After the addition was complete, the mixture was cooled to 5° C. and treated with the crude acyl chloride solution prepared as above at a rate such that the temperature did not exceed 10° C. After the addition was complete, the mixture was allowed to warm to room temperature and was stirred overnight. The biphasic mixture was basified to pH˜10 with 1 N NaOH (300 mL). The layers were separated and the aqueous layer was extracted with toluene (100 mL×2). The combined organic layers were washed with brine (200 mL), dried (Na2SO4), and concentrated to yield the title compound as pale yellow viscous oil.

reactant | 4-formyl-benzoic acid | 54.4 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | thionyl chloride | 30.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 50.7 g | [OH-].[Na+]
reactant | 1-cyclopropyl-piperazine dihydrochloride | 70.0 g | Cl.Cl.C1(CC1)N1CCNCC1
reactant | NaOH | 1 N, 300 mL | [OH-].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 550 mL | O | H2O
solvent | DMF | 3.6 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Cyclopropyl-piperazine-1-carbonyl)-benzaldehyde | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H18N2O2
